US05015659
tert.-Butyl 2-thienylaminoacetate
A mixture of 12.6 g of 2-thienylaminoacetic acid, 300 ml of dimethoxyethane, 15 ml of sulphuric acid and 100 ml of isobutene is stirred at room temperature in an autoclave for 5 h and poured into a mixture composed of 800 ml of ether and 800 ml of 1N sodium hydroxide solution. The ethereal phase is separated off, and the aqueous phase is extracted twice more by shaking with 200 ml of ether each time. After drying of the ether phases over MgSO4 and evaporation of the solvent there remains a yellowish oily residue.

reactant | 2-thienylaminoacetic acid | 12.6 g | S1C(=CC=C1)NCC(=O)O | C6H7NO2S
reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 100 ml | C=C(C)C | C4H8
reactant | sodium hydroxide | 1N, 800 ml | [OH-].[Na+]
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | dimethoxyethane | 300 ml | C(OC)COC | C4H10O2
product | tert.-Butyl 2-thienylaminoacetate | S1C(=CC=C1)NCC(=O)OC(C)(C)C | C10H15NO2S
